US05869492
A solution of potassium hydroxide (7.5 g) in a mixture of ethanol (220 ml) and water (55 ml) was added at ambient temperature under nitrogen to a stirred solution of 4-mercaptobenzonitrile (18.0 g; prepared according to the method of S. Krishnamurthy and D. Aimino, J. Org. Chem., 1989, 54, 4458) in a mixture of ethanol (195 ml) and water (12 ml), then the mixture was stirred at ambient temperature for 4.5 hours. A solution of 1-chloro-4-phenoxybut-2-yne (24.1 g; prepared in a similar manner to that described in Example 5) in a mixture of ethanol (195 ml) and water (12 ml) was added dropwise over 1.5 hours, then the mixture was stirred at ambient temperature for 17 hours. The mixture was concentrated in vacuo to remove the ethanol, then the product was diluted with water (150 ml) and extracted into ethyl acetate (2×250 ml). The combined extracts were washed with water (100 ml) and saturated brine (100 ml), dried (MgSO4), and the solvent removed in vacuo to leave 4-(4-phenoxybut-2-ynylthio)benzonitrile as an off-white solid (37.7 g).

reactant | potassium hydroxide | 7.5 g | [OH-].[K+]
reactant | 4-mercaptobenzonitrile | SC1=CC=C(C#N)C=C1 | C7H5NS
reactant | 1-chloro-4-phenoxybut-2-yne | ClCC#CCOC1=CC=CC=C1 | C10H9ClO
solvent | ethanol | 220 ml | C(C)O | C2H6O
solvent | water | 55 ml | O | H2O
solvent | ethanol | 195 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
solvent | ethanol | 195 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
product | 4-(4-phenoxybut-2-ynylthio)benzonitrile | 37.7 g | O(C1=CC=CC=C1)CC#CCSC1=CC=C(C#N)C=C1 | C17H13NOS
